US09302991B2
<Step-2>: (6-chloro-4-((1-(5-methyl-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)carbamoyl)pyridin-2-yl)methyl acetate (single enantiomer)
The title compound is prepared in 21% yield (100 mg, a yellow solid) from 1-(5-methyl-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethanamine hydrochloride (295 mg, 1.1 mmol, Amine-17, single enantiomer) and 2-(acetoxymethyl)-6-chloroisonicotinic acid (500 mg, 1.1 mmol, Step-1) by the similar manner in Step-1 of Example 8.

reactant | 1-(5-methyl-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethanamine hydrochloride | 1.1 mmol, 295 mg | Cl.CC=1C=C(C=NC1OCC(F)(F)F)C(C)N
reactant | 2-(acetoxymethyl)-6-chloroisonicotinic acid | 1.1 mmol, 500 mg | C(C)(=O)OCC=1C=C(C(=O)O)C=C(N1)Cl | C9H8ClNO4
product | (6-chloro-4-((1-(5-methyl-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)carbamoyl)pyridin-2-yl)methyl acetate | 21% yield | C(C)(=O)OCC1=NC(=CC(=C1)C(NC(C)C=1C=NC(=C(C1)C)OCC(F)(F)F)=O)Cl | C19H19ClF3N3O4
